* C:\Users\Carlo\OneDrive\Documentos\AnalogicaPRJ1\Analogica1\Proyecto1\Test.asc
V1 N002 0 wavefile=prueba.wav
R1 N001 N002 {R}
R2 N003 N001 {R}
C1 N003 0 {C1}
C2 out N001 {C2}
XU1 N003 out VCC VEE out LT1001
V2 VCC 0 12
V3 VEE 0 -12
.tran 10
.wave "C:\Users\Carlo\OneDrive\Documentos\AnalogicaPRJ1\Analogica1\Proyecto1\salida.wav" 8 8k V(out)
.include param.txt
.lib LTC.lib
.backanno
.end
